US07842696B2
DIPEA (7 g, 9.44 mL, 54.6 mmol) was added to a stirred solution of 3-phenyl-propionic acid (3.27 g, 21.8 mmol) in DMF (15 mL). HOBT (2.94 g, 21.8 mmol) and EDCI (4.16 g, 21.8 mmol) were then added at room temperature. After 2 minutes, piperidine-4-carboxylic acid benzyl ester (4 g, 18.2 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using 60-120 silica gel and EtOAc in hexane as eluent) to afford 2.64 g (41.25% yield) of 1-(3-phenyl-propionyl)-piperidine-4-carboxylic acid benzyl ester. LCMS Purity: 86.15%.

reactant | DIPEA | 54.6 mmol, 9.44 mL, 7 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-phenyl-propionic acid | 21.8 mmol, 3.27 g | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | HOBT | 21.8 mmol, 2.94 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 21.8 mmol, 4.16 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | piperidine-4-carboxylic acid benzyl ester | 18.2 mmol, 4 g | C(C1=CC=CC=C1)OC(=O)C1CCNCC1 | C13H17NO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(3-phenyl-propionyl)-piperidine-4-carboxylic acid benzyl ester | 2.64 g, 41.25% yield | C(C1=CC=CC=C1)OC(=O)C1CCN(CC1)C(CCC1=CC=CC=C1)=O | C22H25NO3
